US06534499B2
1-(2-Cyclohexylethyl)-1-(2-hydroxyethyl)-3-[2-(1-piperidyl)ethyl]-urea (Compound 1-1)
1,1′-Carbonyldiimidazole (740 mg) was dissolved in a solution of 2-(1-piperidyl) ethylamine (0.50 ml) in anhydrous tetrahydrofuran (18 ml) under the nitrogen gas atmosphere and then the mixture was stirred at room temperature for 20 minutes. N-(2-Hydroxyethyl)-2-cyclohexylethylamine hydrochloride (875 mg) was added to the reaction solution and the mixture was refluxed with heating for 3 hours. Ether was added to the reaction solution with ice cooling, the resulting mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated sodium chloride aqueous solution in this order, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting oily product was purified through the silica gel column chromatography to give the title compound (Compound 1-1, 1.01 g).

reactant | 1,1′-Carbonyldiimidazole | 740 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(2-Hydroxyethyl)-2-cyclohexylethylamine hydrochloride | 875 mg | Cl.OCCNCCC1CCCCC1
reactant | Ether | CCOCC | C4H10O
reactant | 2-(1-piperidyl) ethylamine | 0.50 ml | N1(CCCCC1)CCN | C7H16N2
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | 1-(2-Cyclohexylethyl)-1-(2-hydroxyethyl)-3-[2-(1-piperidyl)ethyl]-urea | 1.01 g | C1(CCCCC1)CCN(C(=O)NCCN1CCCCC1)CCO | C18H35N3O2
